US06759554B2
N-(2-Nitrophenyl)benzamide
Using general procedure A, benzamide (150 mg, 1.24 mmol) was coupled with 1-iodo-2-nitrobenzene (260 mg, 1.04 mmol). The crude product was purified by flash chromatography on silica gel (2×15 cm; hexane-ethyl acetate 8:1; 15 mL fractions). Fractions 8-14 provided 177 mg (70% yield) of the product as bright yellow needles. The 1H NMR spectrum was in accord with that reported by Murphy et al. Murphy, J. A.; Rasheed, F.; Gastaldi, S.; Ravishanker, T.; Lewis, N. J. Chem. Soc., Perkin Trans 1 1997, 1549.

reactant | benzamide | 1.24 mmol, 150 mg | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | 1-iodo-2-nitrobenzene | 1.04 mmol, 260 mg | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
product | N-(2-Nitrophenyl)benzamide | 177 mg, 70% yield | [N+](=O)([O-])C1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C13H10N2O3
